US09255090B2
Synthesis of 8-chloro-5-methanesulfonyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (C18H18NO4ClS, MW=379.07)
A mixture under Ar of 5-bromo-8-chloro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (190 mg, 0.5 mmol, 1.0 eq.), sodium methanesulfinate (72 mg, 0.6 mmol, 1.2 eq.), L-proline (12 mg, 0.1 mmol, 0.2 eq.), 1M aq. NaOH soln. (0.1 mL, 0.1 mmol, 0.2 eq.), and copper (I) iodide (10 mg, 0.05 mmol, 0.1 eq.) in DMSO (5 mL) was stirred at 150° C. under microwave irradiations for 1 hour. The mixture was allowed to cool to r.t. and partitioned between AcOEt (125 mL), and H2O (125 mL). The layers were separated and the aq. phase was extracted with AcOEt (2×125 mL). The comb. org. phases were dried over MgSO4 and concentrated in vacuo. The residue was purified by prep. HPLC (column: Waters Xbridge, 30×75 mm, 10 um, UV/MS, acidic conditions) and evaporated to give the title compound as a colorless oil.

reactant | 5-bromo-8-chloro-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | 0.5 mmol, 190 mg, 1.0 eq. | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)Br)Cl | C17H15BrClNO2
reactant | sodium methanesulfinate | 0.6 mmol, 72 mg, 1.2 eq. | CS(=O)[O-].[Na+]
reactant | L-proline | 0.1 mmol, 12 mg, 0.2 eq. | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | NaOH | 1M | [OH-].[Na+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
catalyst | copper (I) iodide | 0.05 mmol, 10 mg, 0.1 eq. | [Cu]I
product | 8-chloro-5-methanesulfonyl-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)S(=O)(=O)C)Cl | C18H18ClNO4S
